US08557809B2
Step A: Preparation of 8-bromo-6-fluoro-2-methylquinoline
2-Bromo-4-fluorobenzenamine (10 g, 52.6 mmol) was weighed into a round bottom flask, and dissolved in 40 ml, of 6N HCl. The reaction mixture was then heated to reflux, followed by drop-wise addition of (E)-but-2-enal (4.578 mL, 55.3 mmol) mixed with 1.0 mL deionized water over 25 minutes. Following complete addition the reaction was heated at 100° C. for an additional 35 minutes, until all the 2-bromo-4-fluorobenzenamine had been consumed. The reaction was cooled to ambient temperature, followed by addition of 50 mL of Et2O. The reaction was stirred for 5 minutes followed by removal of Et2O by partitioning. The aqueous layer was replaced into the original reaction flask and ZnCl2 (3.586 g, 26.3 mmol) was then added in two portions followed by cooling to 0° C. over 30 minutes. The pH of the crude reaction mixture was then adjusted to pH=8.0 using concentrated NH4OH. The crude mixture was then extracted with Et2O, followed by ethyl acetate. The combined organics were then dried over Na2SO4, and then concentrated in vacuo, affording the desired product as a brown solid (10.7 g, 85% yield). MS APCI (+) m/z 240.2 and 242.2 (M+1 of each Br isotope) detected.

reactant | 2-Bromo-4-fluorobenzenamine | 52.6 mmol, 10 g | BrC1=C(C=CC(=C1)F)N | C6H5BrFN
reactant | (E)-but-2-enal | 55.3 mmol, 4.578 mL | C(\C=C\C)=O | C4H6O
reactant | water | O | H2O
reactant | NH4OH | [NH4+].[OH-]
solvent | HCl | 6N | Cl | ClH
catalyst | ZnCl2 | 26.3 mmol, 3.586 g | [Cl-].[Cl-].[Zn+2]
product | 8-bromo-6-fluoro-2-methylquinoline | 10.7 g, 85% yield | BrC=1C=C(C=C2C=CC(=NC12)C)F | C10H7BrFN
